US05362906
Step 2: Diethyl [1-(t-Butyldimethylsiloxy)-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate
To a stirred solution of the diethyl (t-butyldimethylsiloxy)methylphosphonate (562 mg, 2.0 mmol) in THF (5 ml) under argon at -78° C. was added n-BuLi (0.84 ml of a 2.5M solution in hexanes, 2.1 mmol) and the resulting mixture stirred at -78° C. for 15 min. Farnesyl bromide (0.542 ml, 2.0 mmol) was added to the mixture over 5 min and the solution stirred a further 1 hr at -78° C. and then allowed to warm to r.t. The reaction mixture was poured into saturated NaHCO3 solution and the organic solvent evaporated in vacuo, the residue was extracted into ethylacetate and washed with brine, dried (MgSO4) and concentrated in vacuo and the resulting oil chromatographed on silica gel eluted with ethylacetate:hexanes (3:7, v:v). to afford the title compound as an oil.

reactant | diethyl (t-butyldimethylsiloxy)methylphosphonate | 2.0 mmol, 562 mg | O([Si](C)(C)C(C)(C)C)CP(OCC)(OCC)=O | C11H27O4PSi
reactant | n-BuLi | [Li]CCCC
reactant | Farnesyl bromide | 2.0 mmol, 0.542 ml | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Diethyl [1-(t-Butyldimethylsiloxy)-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate | O([Si](C)(C)C(C)(C)C)C(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OCC)(OCC)=O | C26H51O4PSi
